US04988814
2-(Phenylmethyl)propenoic acid (Mannich et al., Chem. Ber., 1922, 55, 3486) (2.00 g, 12.35 mmol) and 1-(2-methoxyphenyl)piperazine (2.37 g, 12.35 mmol) in propanol (25 mL) were boiled under reflux for 18 hours, cooled to room temperature, and evaporated in vacuo. The residue was triturated with acetone and diethyl ether to give 2-[[4-(2-methoxyphenyl)piperazinyl]methyl]-3-phenyl propanoic acid (0.80 g) as a colorless powder, mp. 155°-158° C.

reactant | 2-(Phenylmethyl)propenoic acid | 12.35 mmol, 2.00 g | C1(=CC=CC=C1)CC(C(=O)O)=C | C10H10O2
reactant | 1-(2-methoxyphenyl)piperazine | 12.35 mmol, 2.37 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | propanol | 25 mL | C(CC)O | C3H8O
product | 2-[[4-(2-methoxyphenyl)piperazinyl]methyl]-3-phenyl propanoic acid | 0.80 g | COC1=C(C=CC=C1)N1CCN(CC1)CC(C(=O)O)CC1=CC=CC=C1 | C21H26N2O3
